US04382958
N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine
To a solution of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine (1.0 g) in absolute methanol (50 ml) at ambient temperature was added sodium borohydride (1.0 g) in small portions over a period of 30 minutes with vigorous stirring. The mixture was boiled under reflux for 2 hours, cooled to room temperature and the solvent removed under vacuum. The residue was partitioned between water and dichloromethane, the organic layer dried (MgSO4) and evaporated to yield a brown oil (0.81 g) which on chromatography on silica-gel in dichloromethane/methanol mixtures gave a waxy solid. Recrystallisation from 50% 40.60 petroleum ether--ether gave a white solid (0.25 g) m.p. 91°-97° C., as a 58:42 mixture of diastereoisomers.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | 1.0 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C21H24F3NO4
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | N-[2-(4-(2-Hydroxyethoxy)-phenyl)-1-methylethyl]-2-hydroxy-2-(3-trifluoromethylphenyl)ethanamine | 0.81 g | OCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)C(F)(F)F)O | C20H24F3NO3
